US07544672B2
Step 2: 4-Chloro-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-5-trimethylsilanylethynyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine
The title compound was prepared by cleaving the pivaloyl protecting group of N-[4-chloro-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-5-trimethylsilanylethynyl-7H-pyrrolo[2,3-d]pyrimidin-2-yl]-2,2-dimethyl-propionamide with ZnCl2 according to the General Procedure B. tR=6.56 min. 1H NMR (CDCl3) δ 8.22 (s, 1H), 7.11 (s, 1H), 5.30 (s, 2H), 5.09 (s, 2H), 3.75 (s, 3H), 2.26 (s, 3H), 2.18 (s, 3H), 0.24 (s, 9H).

reactant | N-[4-chloro-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-5-trimethylsilanylethynyl-7H-pyrrolo[2,3-d]pyrimidin-2-yl]-2,2-dimethyl-propionamide | ClC=1C2=C(N=C(N1)NC(C(C)(C)C)=O)N(C=C2C#C[Si](C)(C)C)CC2=NC=C(C(=C2C)OC)C | C25H32ClN5O2Si
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
product | 4-Chloro-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-5-trimethylsilanylethynyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine | ClC=1C2=C(N=C(N1)N)N(C=C2C#C[Si](C)(C)C)CC2=NC=C(C(=C2C)OC)C | C20H24ClN5OSi
